Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1]([C@H:2]1[N:3]2[C:4](=[O:5])[N:6]([O:7][CH2:8][CH:9]=[CH2:10])[C@@H:11]([CH2:12]2)[CH:13]=[C:14]1[CH3:15])=[O:16].[CH3:17][C:18]([CH3:19])([CH3:20])[O:21][C:22](=[O:23])[N:24]1[CH2:25][CH2:26][CH:27]([NH2:28])[CH2:29][CH2:30]1>>[C:1]([C@H:2]1[N:3]2[C:4](=[O:5])[N:6]([O:7][CH2:8][CH:9]=[CH2:10])[C@@H:11]([CH2:12]2)[CH:13]=[C:14]1[CH3:15])(=[O:16])[NH:28][CH:27]1[CH2:26][CH2:25][N:24]([C:22]([O:21][C:18]([CH3:17])([CH3:19])[CH3:20])=[O:23])[CH2:30][CH2:29]1,[OH:101][C:1]([C@H:2]1[N:3]2[C:4](=[O:5])[N:6]([O:7][CH2:8][CH:9]=[CH2:10])[C@@H:11]([CH2:12]2)[CH:13]=[C:14]1[CH3:15])=[O:16].[CH3:17][C:18]([CH3:19])([CH3:20])[O:21][C:22](=[O:23])[N:24]1[CH2:25][CH2:26][CH:27]([NH2:28])[CH2:29][CH2:30]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([C@H:2]1[N:3]2[C:4](=[O:5])[N:6]([O:7][CH2:8][CH:9]=[CH2:10])[C@@H:11]([CH2:12]2)[CH:13]=[C:14]1[CH3:15])(=[O:16])[NH:28][CH:27]1[CH2:26][CH2:25][N:24]([C:22]([O:21][C:18]([CH3:17])([CH3:19])[CH3:20])=[O:23])[CH2:30][CH2:29]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (28, 1), ([1, 16], 16), (303, 28.1), ([28.1, 28], 28), (16, [16, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH2:1][CH2:2][N:3]1[CH2:4][CH2:5][CH2:6][CH2:7][CH2:8]1.[CH3:9][O:10][c:11]1[cH:12][c:13]([O:14][CH3:15])[c:16]2[c:17]([cH:18]1)[o:19][c:20](=[O:21])[c:22]1[c:23]2[CH2:24][CH2:25][NH:26][CH2:27]1>>[CH2:1]([CH2:2][N:3]1[CH2:4][CH2:5][CH2:6][CH2:7][CH2:8]1)[N:26]1[CH2:25][CH2:24][c:23]2[c:16]3[c:13]([O:14][CH3:15])[cH:12][c:11]([O:10][CH3:9])[cH:18][c:17]3[o:19][c:20](=[O:21])[c:22]2[CH2:27]1,[CH3:9][O:10][c:11]1[cH:12][c:13]([O:14][CH3:15])[c:16]2[c:17]([cH:18]1)[o:19][c:20](=[O:21])[c:22]1[c:23]2[CH2:24][CH2:25][NH:26][CH2:27]1.[Cl:101][CH2:1][CH2:2][N:3]1[CH2:4][CH2:5][CH2:6][CH2:7][CH2:8]1>>[CH2:1]([CH2:2][N:3]1[CH2:4][CH2:5][CH2:6][CH2:7][CH2:8]1)[N:26]1[CH2:25][CH2:24][c:23]2[c:16]3[c:13]([O:14][CH3:15])[cH:12][c:11]([O:10][CH3:9])[cH:18][c:17]3[o:19][c:20](=[O:21])[c:22]2[CH2:27]1,SN2,"[(26, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1]([N:2]1[CH2:3][CH2:4][N:5]([CH2:6][CH3:7])[CH2:8][CH2:9]1)=[O:10].[O:11]=[C:12]1[C:13]2=[C:14]([S:15][CH2:16][CH2:17][S:18]2)[CH:19]([OH:20])[N:21]1[c:22]1[cH:23][cH:24][c:25]([Cl:26])[cH:27][n:28]1>>[C:1]([N:2]1[CH2:3][CH2:4][N:5]([CH2:6][CH3:7])[CH2:8][CH2:9]1)(=[O:10])[O:20][CH:19]1[C:14]2=[C:13]([C:12](=[O:11])[N:21]1[c:22]1[cH:23][cH:24][c:25]([Cl:26])[cH:27][n:28]1)[S:18][CH2:17][CH2:16][S:15]2,[O:11]=[C:12]1[C:13]2=[C:14]([S:15][CH2:16][CH2:17][S:18]2)[CH:19]([OH:20])[N:21]1[c:22]1[cH:23][cH:24][c:25]([Cl:26])[cH:27][n:28]1.[Cl:101][C:1]([N:2]1[CH2:3][CH2:4][N:5]([CH2:6][CH3:7])[CH2:8][CH2:9]1)=[O:10].[H-:301].[Na+]>>[C:1]([N:2]1[CH2:3][CH2:4][N:5]([CH2:6][CH3:7])[CH2:8][CH2:9]1)(=[O:10])[O:20][CH:19]1[C:14]2=[C:13]([C:12](=[O:11])[N:21]1[c:22]1[cH:23][cH:24][c:25]([Cl:26])[cH:27][n:28]1)[S:18][CH2:17][CH2:16][S:15]2,alcohol_attack_to_carbonyl_or_sulfonyl,"[(301, 20.1), ([20.1, 20], 20), (20, 1), ([1, 10], 10), (10, [10, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH2:1][CH2:2][NH2:3].[O:4]=[C:5]([c:6]1[cH:7][nH:8][c:9]2[cH:10][c:11]([Cl:12])[cH:13][cH:14][c:15]12)[N:16]1[CH2:17][CH2:18][CH:19]([c:20]2[cH:21][cH:22][cH:23][c:24]3[c:25]2[O:26][CH2:27][CH2:28]3)[CH2:29][CH2:30]1>>[CH2:1]([CH2:2][NH2:3])[n:8]1[cH:7][c:6]([C:5](=[O:4])[N:16]2[CH2:17][CH2:18][CH:19]([c:20]3[cH:21][cH:22][cH:23][c:24]4[c:25]3[O:26][CH2:27][CH2:28]4)[CH2:29][CH2:30]2)[c:15]2[c:9]1[cH:10][c:11]([Cl:12])[cH:13][cH:14]2,[O:4]=[C:5]([c:6]1[cH:7][nH:8][c:9]2[cH:10][c:11]([Cl:12])[cH:13][cH:14][c:15]12)[N:16]1[CH2:17][CH2:18][CH:19]([c:20]2[cH:21][cH:22][cH:23][c:24]3[c:25]2[O:26][CH2:27][CH2:28]3)[CH2:29][CH2:30]1.[Cl:101][CH2:1][CH2:2][NH2:3]>>[CH2:1]([CH2:2][NH2:3])[n:8]1[cH:7][c:6]([C:5](=[O:4])[N:16]2[CH2:17][CH2:18][CH:19]([c:20]3[cH:21][cH:22][cH:23][c:24]4[c:25]3[O:26][CH2:27][CH2:28]4)[CH2:29][CH2:30]2)[c:15]2[c:9]1[cH:10][c:11]([Cl:12])[cH:13][cH:14]2,SN2,"[(8, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
